US05506190
N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide (1.00 g, 2.75 mmol), 2,2-dimethylpropylamine (0.310 g, 3.56 mmol), triethylamine (0.280 g, 2.77 mmol) and benzene (25 ml) as a solvent were placed into a round bottom flask (50 cc) and stirred overnight at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure, and the precipitated crystals were isolated by filtration. The crystals were washed with hexane and dried to obtain N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-(2,2-dimethylpropyl)-3,4,5,6-tetrahydrophthalamide as white crystals (0.660 g, 53.1% yield).

reactant | N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 2.75 mmol, 1.00 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=C(C1=O)CCCC2)=O | C19H19ClFNO3
reactant | 2,2-dimethylpropylamine | 3.56 mmol, 0.310 g | CC(CN)(C)C | C5H13N
reactant | triethylamine | 2.77 mmol, 0.280 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-(2,2-dimethylpropyl)-3,4,5,6-tetrahydrophthalamide | 0.660 g, 53.1% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NCC(C)(C)C)CCCC1)=O | C24H32ClFN2O3
